US07834181B2
8-(6-Bromo-benzo[1,3]dioxol-5-ylsulfanyl)adenine.
8-Mercaptoadenine (602 mg, 3.6 mmol), neocuproine hydrate (81 mg, 0.36 mmol), CuI (69 mg, 0.36 mmol), NaO-t-Bu (692 mg, 7.2 mmol), 5-bromo-6-iodo-benzo[1,3]dioxole (3.53 g, 10.8 mmol) and anhydrous DMF (24 mL) were charged in a nitrogen box. The vessel was sealed with Teflon tape, placed in an oil bath (110° C.) and magnetically stirred for 24 h. The solvent was removed under high vacuum and the crude purified by column chromatography on silica gel

reactant | 8-Mercaptoadenine | 3.6 mmol, 602 mg | SC1=NC2=NC=NC(=C2N1)N | C5H5N5S
reactant | neocuproine hydrate | 0.36 mmol, 81 mg | CC1=NC2=C(C=C1)C=CC3=C2N=C(C=C3)C.O
reactant | NaO-t-Bu | 7.2 mmol, 692 mg | O([Na])C(C)(C)C
reactant | 5-bromo-6-iodo-benzo[1,3]dioxole | 10.8 mmol, 3.53 g | BrC1=CC2=C(OCO2)C=C1I | C7H4BrIO2
catalyst | CuI | 0.36 mmol, 69 mg | [Cu]I
solvent | DMF | 24 mL | CN(C)C=O | C3H7NO
product | 8-(6-Bromo-benzo[1,3]dioxol-5-ylsulfanyl)adenine | BrC=1C(=CC2=C(OCO2)C1)SC1=NC2=NC=NC(=C2N1)N | C12H8BrN5O2S
